* diff compares the vector the deck named, not its case twin as well
* doc/codex/issues/0032, the last of the six name matchers outside findvec().
* nameeq() (src/frontend/diff.c) is what throws out the vectors that are not
* in diff's argument list, and it compared a stored v_name against the word
* the user typed with cieq(), so under distinguish 'diff op1 tran1 OUT' also
* reported Out -- a vector the deck did not ask about, and under this mode a
* different net entirely.
*
* nameeq() is the only case decision in diff that this issue reaches.  The
* pairing of a vector in one plot with its twin in the other is a hash lookup
* on canonical names (diff.c:198-215) whose comparator is nghash's strcmp
* (src/misc/hash.c:260), so it is byte exact in all three modes already; that
* it is too strict under preserve is a different defect and is filed
* separately.
*
* Out and OUT are two nets under distinguish, the same circuit
* node-case-split.cir and vector-unlet-case.cir use.  The two plots are an op
* and a tran of the same deck, so every vector holds the same value and the
* only difference diff can report is the length: one point against sixteen.
* That keeps the reference to one line per selected vector, which is exactly
* the evidence -- before the fix there are two lines, after it there is one.
* The report is on cp_out, so no capture is needed.
.OPTIONS noacct
V1 in 0 dc 1.5
R1 in Out 1k
R2 Out 0 1k
R3 in OUT 1k
R4 OUT 0 3k
.control
op
tran 1m 4m 0 4m
echo DIFF-BEGIN
diff op1 tran1 OUT
echo DIFF-END
.endc
.end
